US05025007
Step B: Preparation of 2-thioanisylterepthalic acid
Dimethyl 2-thioanisylterepthalate (3.92 g) was suspended in methanol (45.9 ml), 5M NaOH (13.5 ml) was added. The reaction mixture was heated at reflux for 1.5 hours. The methanol was removed under reduced pressure. The residues was treated with ethyl acetate and water and the layers separated. The aqueous layer was washed once with ethyl acetate. The aqueous layer was then acidified with 2N HCl and extracted three times with ethyl acetate. These combined organic extracts were then dried over MgSO4, filtered and evaporated under reduced pressure gave the product (2.75 g).

reactant | Dimethyl 2-thioanisylterepthalate | 3.92 g | CC1=C(C=C(C=C1)SC)C1=C(C(=O)OC)C=CC(=C1)C(=O)OC | C18H18O4S
reactant | NaOH | 5M, 13.5 ml | [OH-].[Na+]
solvent | methanol | 45.9 ml | CO | CH4O
product | 2-thioanisylterepthalic acid | 2.75 g | CC1=C(C=C(C=C1)SC)C1=C(C(=O)O)C=CC(=C1)C(=O)O | C16H14O4S
